US06936612B2
2,2-Dimethyl-4-(6-nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (14.63 g, 43.5 mmol) was dissolved in THF (400 mL) to which Raney Nickel (6.8 g) was added. The reaction mixture was shaken under a hydrogen atmosphere (50 psi) for 4 hours. The catalyst was removed by filtration and the solvent evaporated to give 4-(6-amino-pyridin-3-yl)-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a purple solid (11.26 g, 84.5%). 1H NMR δ (400 MHz, CDCl3) 7.63 (d, J=2.4 Hz, 1H), 7.06 (dd, J=2.9, 8.8 Hz, 1H), 6.51 (d, J=8.8 Hz, 1H), 3.68 (m, 2H), 3.16 (m, 2H), 2.98 (s, 2H), 1.48 (s, 9H), 1.43 (s, 6H).

reactant | 2,2-Dimethyl-4-(6-nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 43.5 mmol, 14.63 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)[N+](=O)[O-])(C)C | C16H24N4O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 6.8 g | [Ni] | Ni
product | 4-(6-amino-pyridin-3-yl)-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 11.26 g, 84.5% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)N)(C)C | C16H26N4O2
